US04342870
A mixture of 155 parts of 1-fluoro-3-methoxybenzene, 75 parts of aluminium chloride and 650 parts of 1,2-dichloroethane is stirred and 113 parts of 1-acetyl-4-piperidinecarbonyl chloride are added portionwise. Upon completion, stirring is continued for 1 hour at 40°-50° C. The reaction mixture is poured onto a mixture of crushed ice and hydrochloric acid. The product is extracted with methylbenzene. The extract is dried, filtered and evaporated. The residue is purified by high pressure liquid-chromatography over silica gel using a mixture of trichloromethane, hexane and methanol (47.5:47.5:5 by volume) as eluent. The first fraction (A-isomer) is collected and the eluent is evaporated, yielding 1-acetyl-4-(2-fluoro-4-methoxybenzoyl)-piperidine. The second fraction (B-isomer) is collected and the eluent is evaporated, yielding 40 parts (25%) of 1-acetyl-4-(4-fluoro-2-hydroxybenzoyl)piperidine.

reactant | 1-fluoro-3-methoxybenzene | FC1=CC(=CC=C1)OC | C7H7FO
reactant | aluminium chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1-acetyl-4-piperidinecarbonyl chloride | C(C)(=O)N1CCC(CC1)C(=O)Cl | C8H12ClNO2
reactant | hydrochloric acid | Cl | ClH
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 1-acetyl-4-(2-fluoro-4-methoxybenzoyl)-piperidine | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)OC)F)=O | C15H18FNO3
